US06004948
(c) 3-(4-Chlorophenylthio)-4-nitro-benzenesulphonamide
3-Chloro-4-nitrobenzenesulphonamide (1.08 g; 4.53 mmol), 4-chlorothiophenol (0.66 g; 4.53 mmol) and K2CO3 (0.64 g; 4.60 mmol) were refluxed in dioxan (30 ml) for 3 hours. The mixture was then diluted with CH2Cl2, filtered and washed with water. The organic phase was dried over MgSO4 and evaporated down. The product was recrystallised from petroleum ether/ethyl acetate. Yield: 1.0 g=64% 13C (100 MHz, DMSO-d6) δ 148.57, 146.43, 138.07, 137.08, 135.76, 130.70, 128.74, 127.27, 125.43, 123.52

reactant | 3-Chloro-4-nitrobenzenesulphonamide | 4.53 mmol, 1.08 g | ClC=1C=C(C=CC1[N+](=O)[O-])S(=O)(=O)N | C6H5ClN2O4S
reactant | 4-chlorothiophenol | 4.53 mmol, 0.66 g | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | K2CO3 | 4.60 mmol, 0.64 g | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxan | 30 ml | O1CCOCC1 | C4H8O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-(4-Chlorophenylthio)-4-nitro-benzenesulphonamide | ClC1=CC=C(C=C1)SC=1C=C(C=CC1[N+](=O)[O-])S(=O)(=O)N | C12H9ClN2O4S2
